US07943636B2
Hydrochloric acid (3.9 mL of 6 M) was added to a solution of tert-butyl 4-[(4-bromo-5-cyano-2-propyl-2H-pyrazol-3-yl)methyl]-4-fluoropiperidine-1-carboxylate (3.34 g, 7.78 mmol) in ethanol (40 mL), and the reaction was heated at 70° C. for 1.5 hours, allowed to cool to room temperature, and concentrated under reduced pressure to provide 2.9 g of 4-bromo-5-[(4-fluoropiperidin-4-yl)methyl]-1-propyl-1H-pyrazole-3-carbonitrile hydrochloride. The salt was suspended in dichloromethane (40 mL), and triethylamine (4.9 mL, 4.5 eq.) was added. The mixture was stirred for ten minutes to provide a 0.2 M solution of 4-bromo-5-[(4-fluoropiperidin-4-yl)methyl]-1-propyl-1H-pyrazole-3-carbonitrile.

reactant | Hydrochloric acid | 6 M, 3.9 mL | Cl | ClH
reactant | tert-butyl 4-[(4-bromo-5-cyano-2-propyl-2H-pyrazol-3-yl)methyl]-4-fluoropiperidine-1-carboxylate | 7.78 mmol, 3.34 g | BrC1=C(N(N=C1C#N)CCC)CC1(CCN(CC1)C(=O)OC(C)(C)C)F | C18H26BrFN4O2
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 4-bromo-5-[(4-fluoropiperidin-4-yl)methyl]-1-propyl-1H-pyrazole-3-carbonitrile hydrochloride | 2.9 g | Cl.BrC=1C(=NN(C1CC1(CCNCC1)F)CCC)C#N | InChI=1S/C13H18BrFN4.ClH/c1-2-7-19-11(12(14)10(9-16)18-19)8-13(15)3-5-17-6-4-13;/h17H,2-8H2,1H3;1H
